US04338333
1-[4-(3-Carbomethoxyprop-2-eneoxy)phenyl]propan-2-one
A mixture of 4-hydroxyphenylpropan-2-one ethylene ketal (3.0 g) and potassium carbonate (2.13 g) in acetone (50 ml) was treated with methyl 4-bromocrotonate (2.77 g) and a trace of potassium iodide. After heating under reflux for 12 hours, the solution was filtered, the solvent evaporated and the residue dissolved in methanol (50 ml) and 2.5 N hydrochloric acid (25 ml). The solution was stirred at ambient temperature for 2 hours, the solvent evaporated, the residue extracted with ether, washed with 2 N sodium hydroxide, water and dried (MgSO4). Removal of the solvent gave the title compound as an oil (2.3 g).

reactant | 4-hydroxyphenylpropan-2-one ethylene ketal | 3.0 g | C1COC(CC2=CC=C(C=C2)O)(C)O1 | C11H14O3
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-bromocrotonate | 2.77 g | BrC/C=C/C(=O)OC | C5H7BrO2
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-[4-(3-Carbomethoxyprop-2-eneoxy)phenyl]propan-2-one | 2.3 g | C(=O)(OC)C=CCOC1=CC=C(C=C1)CC(C)=O | C14H16O4
